US05864039
Phenol (0.88 g), 6-bromohexanoyl chloride (2.0 g) and aluminum chloride (1.4 g) were reacted and treated in the same manner as in Preparation Example 105 to give 0.51 g of 6-bromo-1-(4-hydroxyphenyl)-1-hexanone.

reactant | Phenol | 0.88 g | C1(=CC=CC=C1)O | C6H6O
reactant | 6-bromohexanoyl chloride | 2.0 g | BrCCCCCC(=O)Cl | C6H10BrClO
reactant | aluminum chloride | 1.4 g | [Cl-].[Al+3].[Cl-].[Cl-]
product | 6-bromo-1-(4-hydroxyphenyl)-1-hexanone | 0.51 g | BrCCCCCC(=O)C1=CC=C(C=C1)O | C12H15BrO2
